US07384934B2
2-(4-Fluoro-2-nitro-phenylamino)-5-methyl-benzonitrile
Combine 4-fluoro-2-nitro-phenylamine (2.9 g, 18.50 mmol), 2-fluoro-5-methyl-benzonitrile (2.5 g, 18.50 mmol) and lithium hydroxide monohydrate (2.4 g, 57.20 mmol) in methyl sulfoxide (DMSO, 40 ml). Heat the resulting mixture to 55° C. for 40 hours. Cool the reaction mixture to ambient temperature, then pour into approximately 250 ml of ice water and stir for one hour. Filter the resulting mixture and collect the precipitate. Chromatograph the solid using flash chromatography and elute with mobile phase: 90% hexanes, 5% ethyl acetate, and 5% dichloromethane to obtain 2.267 g of the title compound (8.36 mmol, 45% yield) as an orange amorphous solid: Mass Spectrum (m/e): 272(M+1).

reactant | 4-fluoro-2-nitro-phenylamine | 18.50 mmol, 2.9 g | FC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | 2-fluoro-5-methyl-benzonitrile | 18.50 mmol, 2.5 g | FC1=C(C#N)C=C(C=C1)C | C8H6FN
reactant | lithium hydroxide monohydrate | 57.20 mmol, 2.4 g | O.[OH-].[Li+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-Fluoro-2-nitro-phenylamino)-5-methyl-benzonitrile | 8.36 mmol, 2.267 g, 45% yield | FC1=CC(=C(C=C1)NC1=C(C#N)C=C(C=C1)C)[N+](=O)[O-] | C14H10FN3O2
